US09023854B2
22.1 Phenyl 5-chloro-3-(2-ethoxypyridin-3-yl)-2-oxo-3-phenoxycarbonyloxy-2,3-dihydroindole-1-carboxylate
2.6 ml (21 mmol) of phenyl chloroformate were slowly added dropwise to a solution, cooled to 0° C., of 3.00 g (9.8 mmol) of 5-chloro-3-(2-ethoxypyridin-3-yl)-3-hydroxy-1,3-dihydroindol-2-one from example a.1 in 10 ml of pyridine, and the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and extracted with water. The organic phase was washed with water and saturated sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was stirred with diethyl ether. 2.58 g of the title compound were obtained as a white solid.

reactant | phenyl chloroformate | 21 mmol, 2.6 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 5-chloro-3-(2-ethoxypyridin-3-yl)-3-hydroxy-1,3-dihydroindol-2-one | 9.8 mmol, 3.00 g | ClC=1C=C2C(C(NC2=CC1)=O)(O)C=1C(=NC=CC1)OCC | C15H13ClN2O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Phenyl 5-chloro-3-(2-ethoxypyridin-3-yl)-2-oxo-3-phenoxycarbonyloxy-2,3-dihydroindole-1-carboxylate | 2.58 g | ClC=1C=C2C(C(N(C2=CC1)C(=O)OC1=CC=CC=C1)=O)(OC(=O)OC1=CC=CC=C1)C=1C(=NC=CC1)OCC | C29H21ClN2O7
